US07449461B2
(rac)-2-(7-Oxa-bicyclo [2.2.1]hept-1-yl)-propionic acid
The title compound was prepared by standard Wittig-Horner reaction from 4-hydroxy-cyclohexanone, 2-(diethoxy-phosphoryl)-propionic acid ethyl ester and sodium hydride (J. Boutagy, R. Thomas, Chem. Rev. 1974, 74, 87-99) and subsequent saponification with potassium hydroxide in ethanol. After recrystallization from n-heptane, the title compound was obtained as white solid. EI-MS: m/e=170(M+), 1H-NMR (90 MHz, CDCl3, TMS):δ 1.3 (d, J=8 Hz, 3H, Me), 1.7 (m, 8H, CH2), 3.0 (q, J=8 Hz, 1H, CH-Me), 4.6 (t, J=4.5 Hz, 1H, CH—O), 7.2 (s, 1H, COOH), mp 61-62° C., bp 120° C. (0.008 mbar).

reactant | 4-hydroxy-cyclohexanone | OC1CCC(CC1)=O | C6H10O2
reactant | 2-(diethoxy-phosphoryl)-propionic acid ethyl ester | C(C)OC(C(C)P(=O)(OCC)OCC)=O | C9H19O5P
reactant | sodium hydride | [H-].[Na+]
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | (rac)-2-(7-Oxa-bicyclo [2.2.1]hept-1-yl)-propionic acid | C12(CCC(CC1)O2)C(C(=O)O)C | C9H14O3
